US08431596B2
4-Bromo-N-(2-dimethylamino-ethyl)-benzamide
A microwave vial containing 4-bromo-benzoic acid ethyl ester (Ig, 4.36 mmol) and N,N-dimethylethylenediamine (2.37 g, 21.38 mmol) was heated under microwave radiation (150° C., 10 min). The volatiles were removed under rotary evaporation and the crude was used in the next step without further purification. Yield: 1.18 g, 100%. LCMS method: 2, RT: 1.93 min; MI: 271-273 [M+1].

reactant | 4-bromo-benzoic acid ethyl ester | 4.36 mmol | C(C)OC(C1=CC=C(C=C1)Br)=O | C9H9BrO2
reactant | N,N-dimethylethylenediamine | 21.38 mmol, 2.37 g | CN(CCN)C | C4H12N2
product | 4-Bromo-N-(2-dimethylamino-ethyl)-benzamide | BrC1=CC=C(C(=O)NCCN(C)C)C=C1 | C11H15BrN2O
